US08895571B2
Step F: 2-(4-chloro-1-methyl-1H-pyrazol-5-yl)-6-[(1S)-1-(3-fluorobenzyl)-2-hydroxyethyl]-6,7-dihydro-5H-pyrrolo[3,4-b]pyridin-5-one
In one 20 mL vial, a mixture of 2-bromo-6-[(1S)-1-(3-fluorobenzyl)-2-hydroxyethyl]-6,7-dihydro-5H-pyrrolo[3,4-b]pyridin-5-one (0.041 g, 0.11 mmol), 4-chloro-1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.0327 g, 0.135 mmol), bis(tri-t-butylphosphine)palladium (0.00574 g, 0.0112 mmol), and N,N-diisopropylethylamine (0.0587 mL, 0.337 mmol) in 1,4-dioxane (5 mL) was microwaved at 120° C. for 20 minutes. The resulting mixture was filtered through a pad of celite and concentrated, and the residue was purified by combi-flash chromatography using hexane/EtOAc/methanol to give 31 mg (68% yield) of the final product. LC/MS found: 401.1 (M+H)+.

reactant | 2-bromo-6-[(1S)-1-(3-fluorobenzyl)-2-hydroxyethyl]-6,7-dihydro-5H-pyrrolo[3,4-b]pyridin-5-one | 0.11 mmol, 0.041 g | BrC1=CC=C2C(=N1)CN(C2=O)[C@H](CO)CC2=CC(=CC=C2)F | C16H14BrFN2O2
reactant | 4-chloro-1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.135 mmol, 0.0327 g | ClC=1C=NN(C1B1OC(C(O1)(C)C)(C)C)C | C10H16BClN2O2
reactant | N,N-diisopropylethylamine | 0.337 mmol, 0.0587 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | bis(tri-t-butylphosphine)palladium | 0.0112 mmol, 0.00574 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 2-(4-chloro-1-methyl-1H-pyrazol-5-yl)-6-[(1S)-1-(3-fluorobenzyl)-2-hydroxyethyl]-6,7-dihydro-5H-pyrrolo[3,4-b]pyridin-5-one | 31 mg, 68% yield | ClC=1C=NN(C1C1=CC=C2C(=N1)CN(C2=O)[C@H](CO)CC2=CC(=CC=C2)F)C | C20H18ClFN4O2
